US09108921B2
Step G: tert-butyl 4-(3,3-difluoropropyl)-4-hydroxypiperidine-1-carboxylate (37I)
A solution of tert-butyl 4-(3,3-difluoroprop-1-yn-1-yl)-4-hydroxypiperidine-1-carboxylate (350 mg, 1.273 mmol) in 30 mL of anhydrous THF was stirred with Pd/C (200 mg) under H2 atmosphere at 15 psi at 48° C. for 8 h. The reaction mixture was cooled to r.t. and filtered, and the resulting mixture was concentrated in vacuo to afford 293 mg of title compound. 1H NMR (CHLOROFORM-d) δ: 5.89 (tt, J=56.9, 4.3 Hz, 1H), 3.84 (dd, J=9.8, 3.5 Hz, 2H), 3.24-3.10 (m, 2H), 2.05-1.89 (m, 2H), 1.67-1.60 (m, 2H), 1.55 (m, 4H), 1.47 (s, 9H).

reactant | tert-butyl 4-(3,3-difluoroprop-1-yn-1-yl)-4-hydroxypiperidine-1-carboxylate | 1.273 mmol, 350 mg | FC(C#CC1(CCN(CC1)C(=O)OC(C)(C)C)O)F | C13H19F2NO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | tert-butyl 4-(3,3-difluoropropyl)-4-hydroxypiperidine-1-carboxylate | 293 mg | FC(CCC1(CCN(CC1)C(=O)OC(C)(C)C)O)F | C13H23F2NO3
